US07005432B2
5-(3-tert-Butyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=307.3 (M+H+), was prepared from 2-(3-tert-butylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-tert-butylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C(C)(C)(C)C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C16H25BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-tert-Butyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.C(C)(C)(C)C=1C=C(C=CC1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C19H22N4.ClH/c1-14-20-8-9-23(14)13-18-11-16(12-21-22-18)15-6-5-7-17(10-15)19(2,3)4;/h5-12H,13H2,1-4H3;1H
